US06177423B1
(S)-6-(3-Aminopyrrolidin-1-yl)-4,7-dichloro-2-hydroxy-1H-benzo[de]isoquinoline-1,3-dione hydrochloride
A solution of (S)-[1-(2-allyloxy-4,7-dichloro-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-6-yl)pyrrolidin-3-yl]carbamic acid tert-butyl ester (0.3 g, 0.6 mmol, from Example K4) in 10 mL of trifluoroacetic acid was treated with boron tristrifluoroacetate (4 mL, 4.0 mmol, 1.0 M in trifluoroacetic acid). The reaction was stirred at room temperature for 2 hours and the solvent evaporated in vacuo. The residue was chased with dichloromethane and redissolved in methanol which was also evaporated. The residue was triturated with ether, the solid removed by filtration and dried in vacuo to give 0.27 g, mp 210-212° C.

reactant | (S)-[1-(2-allyloxy-4,7-dichloro-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-6-yl)pyrrolidin-3-yl]carbamic acid tert-butyl ester | 0.6 mmol, 0.3 g | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C=1C=C(C=2C(N(C(C3=CC=C(C1C23)Cl)=O)OCC=C)=O)Cl)=O | C24H25Cl2N3O5
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-6-(3-Aminopyrrolidin-1-yl)-4,7-dichloro-2-hydroxy-1H-benzo[de]isoquinoline-1,3-dione hydrochloride | Cl.N[C@@H]1CN(CC1)C=1C=C(C=2C(N(C(C3=CC=C(C1C23)Cl)=O)O)=O)Cl | InChI=1S/C16H13Cl2N3O3.ClH/c17-9-2-1-8-12-13(9)11(20-4-3-7(19)6-20)5-10(18)14(12)16(23)21(24)15(8)22;/h1-2,5,7,24H,3-4,6,19H2;1H/t7-;/m0./s1
